US09447450B2
2-(7-Hydroxynaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid methyl ester
2-(7-Hydroxynaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid (8 mg, 24 umol) was suspended in a mixture of MeCN and MeOH and acidified to pH<3 by the addition of TFA. The solution was treated with a solution of diazomethane in ether until the yellow color persisted. Excess diazomethane was neutralized by the addition of AcOH, the ether removed under reduced pressure, and the desired product (3.3 mg) isolated as a yellow solid by preparative HPLC eluting with 5→100% MeCN in NH4OAc, followed by lyophilization. Calcd for C16H13N2O3S2 (M+H): 345.0. found 345.

reactant | 2-(7-Hydroxynaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid | 24 umol, 8 mg | OC=1C=C2C=CC=3N=C(SC3C2=CC1)C=1SCC(N1)C(=O)O | C15H10N2O3S2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeCN | CC#N | C2H3N
solvent | MeOH | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 2-(7-Hydroxynaphtho[2,1-d]thiazol-2-yl)-4,5-dihydrothiazole-4-carboxylic acid methyl ester | 3.3 mg | COC(=O)C1N=C(SC1)C=1SC2=C(N1)C=CC1=CC(=CC=C12)O | C16H12N2O3S2
